US07179801B2
A suspension of 1-(4-triphenylmethyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)methylamine (8.4 g) in ethyl formate (30 ml) was stirred at 50° C. for 16 hours. After evaporation of the solvent in vacuo, the residue was triturated with ethyl acetate and dried in vacuo to give N-[(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)methyl]formamide (3.0 g) as a solid.

reactant | 1-(4-triphenylmethyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)methylamine | 8.4 g | C1(=CC=CC=C1)C(N1C=2N(CCC1)N=CC2CN)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H26N4
reactant | ethyl formate | 30 ml | C(=O)OCC | C3H6O2
product | N-[(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)methyl]formamide | 3.0 g | N1=CC(=C2N1CCCN2)CNC=O | C8H12N4O
